US05677321
7-Ethyl-5-aminobenzothiazole
To a solution of SnCl2 (1.5 g, 1.9 mmol) and 5.0 mL of HCl was added 7-ethyl-5-nitrobenzothiazole (0.12 g, 0.57 mmol) in a portion and resulting reaction mixture was stirred for 1 h at 25° C. The reaction mixture was basified with aqueous NaOH and extracted with EtOAc and CHCl3. Combined organic layers were dried over Na2SO4 and concentrated in vacuo, yielding an oil (0.10 g, >95%) which was identified as the desired amine (>95% pure) and subjected to a following reaction without further purification.

reactant | SnCl2 | 1.9 mmol, 1.5 g | Cl[Sn]Cl
reactant | HCl | 5.0 mL | Cl | ClH
reactant | 7-ethyl-5-nitrobenzothiazole | 0.57 mmol, 0.12 g | C(C)C1=CC(=CC=2N=CSC21)[N+](=O)[O-] | C9H8N2O2S
reactant | NaOH | [OH-].[Na+]
product | 7-Ethyl-5-aminobenzothiazole | 0.10 g, >95% | C(C)C1=CC(=CC=2N=CSC21)N | C9H10N2S
